US07435837B2
Treatment of (±)-(5-chloro-7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (22.1 g, 0.06 mol) with hydrogen bromide (400 mL, 30 wt. % in acetic acid) generally according to the procedure described for Intermediate 46 gave 14.6 g of (±)-(5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. Treatment of (±)-(5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (4.5 g, 12.68 mmol) with trifluoromethanesulfonic anhydride (2.34 mL, 13.9 mmol) and diisopropylethylamine (2.43 mL, 13.9 mmol) generally according to the procedure described for Intermediate 7 provided 6.27 g (99%) of (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a light yellow solid. mp 55-57° C.; Anal. calcd. for C17H14ClF3O7S2: C, 41.94; H, 2.90. Found: C, 42.10; H, 2.76.

reactant | (±)-(5-chloro-7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.06 mol, 22.1 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2OC)Cl | C17H17ClO5S
solvent | hydrogen bromide | 400 mL | Br | BrH
product | (±)-(5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 14.6 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2O)Cl | C16H15ClO5S
